US04533688
(a) Bis(2,2,6,6-tetramethyl-4-piperidyl)amine
1.0 g of platinum oxide was added to a suspension of 50.0 g of 2,2,6,6-tetramethyl-4-piperidone and 109 g of ammonium chloride in 200 ml of methanol. The resulting mixture was then hydrogenated in a hydrogen atmosphere, employing a Parr hydrogenation apparatus at room temperature for 8 hours. At the end of this time, the reaction mixture was poured into an aqueous solution of potassium carbonate. The platinum catalyst was filtered off and the filtrate was extracted with benzene. The extract was dried over anhydrous potassium carbonate and then the benzene was distilled off. The resulting oil was distilled under a high vacuum, to give the title compound in the form of an oil boiling at 135°-139° C./2 mmHg (267 Pascals). This product was purified by column chromatography through silica gel, eluted with a 5:5:1 by volume mixture of ethyl acetate, ethanol and triethylamine, to give the title compound in the form of crystals melting at 77°-78° C.

reactant | 2,2,6,6-tetramethyl-4-piperidone | 50.0 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | ammonium chloride | 109 g | [Cl-].[NH4+]
reactant | hydrogen | [H][H] | H2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 ml | CO | CH4O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | Bis(2,2,6,6-tetramethyl-4-piperidyl)amine | CC1(NC(CC(C1)NC1CC(NC(C1)(C)C)(C)C)(C)C)C | C18H37N3
